US08022072B2
3,1-Benzoxazin-2,4-(1H)-dione (1.0 g, 6.13 mmol) was dissolved in N,N-dimethylformamide (10 ml), 60% sodium hydride (0.296 g, 7.39 mmol) was added under ice-cooling, and the mixture was stirred at room temperature for 1 hr. 1-Iodopentane (0.97 ml, 7.32 mmol) was added, and the mixture was stirred at room temperature for 2 hr. Ethyl acetate was added to the reaction mixture, the mixture was washed with water, and the organic layer was dried over sodium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate) to give 1-pentyl-3,1-benzoxazin-2,4-(1H)-dione (0.634 g, 2.72 mmol, yield 44%).

reactant | 3,1-Benzoxazin-2,4-(1H)-dione | 6.13 mmol, 1.0 g | N1C(OC(C2=C1C=CC=C2)=O)=O | C8H5NO3
reactant | sodium hydride | 7.39 mmol, 0.296 g | [H-].[Na+]
reactant | 1-Iodopentane | 7.32 mmol, 0.97 ml | ICCCCC | C5H11I
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-pentyl-3,1-benzoxazin-2,4-(1H)-dione | 2.72 mmol, 0.634 g, yield 44% | C(CCCC)N1C(OC(C2=C1C=CC=C2)=O)=O | C13H15NO3
